US05847155
2-(Phenylthio)-benzoic Acid
5.6 g (0.10 mol) potassium hydroxide, 7 ml water, 30 ml benzene and 7.7 g (0.05 mol) thiosalicyclic acid were combined and heated at reflux under a Dean Stark trap. After the water had been collected, 50 ml of dimethylformamide was added and the mixture slowly heated to 140°-150° C. to remove the benzene. An additional 10 ml of dimethylformamide and 0.25 g (1.75 mmol) of cuprous oxide were then added. 5.8 ml (0.051 mol) of iodobenzene was slowly added over a period of 20 minutes while the temperature was maintained at 140°-150° C. The reaction mixture gradually became a solution and gentle reflux was continued for 18 hours. The mixture was then cooled and poured over ice. The pH was adjusted to 10.0 and precipitated solids removed by filtration. The filtrate was washed with two portions of ethyl acetate (the organics were discarded) and adjusted to pH 2.5 with 1N HCl. A precipitate formed which was collected by filtration and then recrystallized from aqueous isopropanol to yield 9.5 g (83%) of the title compound.

reactant | potassium hydroxide | 0.10 mol, 5.6 g | [OH-].[K+]
reactant | water | 7 ml | O | H2O
reactant | thiosalicyclic acid | 0.05 mol, 7.7 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | iodobenzene | 0.051 mol, 5.8 ml | IC1=CC=CC=C1 | C6H5I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(Phenylthio)-benzoic Acid | 9.5 g, 83% | C1(=CC=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C13H10O2S
